* ===========================================================================
*  LEVELSHIFTER  -  high-side gate-driver level shifter (main circuit)
*    Ports : BOOT SW VDD GND ON OFF ON_HS OFF_HS
*    Device class: HV = 200V (NDMOS200V / PDMOS200V), LV = 5V (NMOS5V0 / PMOS5V0)
*    PDK   : PMOS5V0 NMOS5V0 NDMOS200V PDMOS200V RPOLY_HI
*    Deps  : BUFFER, DELAY_CELL (-> INV)  [include buffer.spice, delay_cell.spice, inv.spice]
*    Sizing: uses global params wp wn llv whv lhv whvp rl rw rdl rdw cdl cdw
*            (defined by the top deck, levelshifter_top.spice)
* ===========================================================================
.subckt LEVELSHIFTER BOOT SW VDD GND ON OFF ON_HS OFF_HS

* --- Latch-1 : cross-coupled PMOS (5V) ---
XP1 Q  QB BOOT BOOT PMOS5V0 W={wp} L={llv}
XP2 QB Q  BOOT BOOT PMOS5V0 W={wp} L={llv}

* --- HV PMOS level-shift cascodes (200V) ---
XP5 D5 SW Q  PDMOS200V W={whvp} L={lhv}
XP6 D6 SW QB PDMOS200V W={whvp} L={lhv}

* --- HV NMOS cascodes (200V), gate tied to VDD ---
XN5 D5 VDD S5 NDMOS200V W={whv} L={lhv}
XN6 D6 VDD S6 NDMOS200V W={whv} L={lhv}

* --- Leg switching NMOS (5V) : gates = ON / OFF ---
XN7 S5 ON  GND GND NMOS5V0 W={wn} L={llv}
XN8 S6 OFF GND GND NMOS5V0 W={wn} L={llv}

* --- Left current mirror (5V PMOS): P7 diode-tied, P8 output -> Q ---
XP7 D9 D9 BOOT BOOT PMOS5V0 W={wp} L={llv}
XP8 Q  D9 BOOT BOOT PMOS5V0 W={wp} L={llv}
* --- Right current mirror: P10 diode-tied, P9 output -> QB ---
XP10 D12 D12 BOOT BOOT PMOS5V0 W={wp} L={llv}
XP9  QB  D12 BOOT BOOT PMOS5V0 W={wp} L={llv}

* --- Bias resistors BOOT -> D9 / D12 (high-sheet poly; size for bias I) ---
XR1 BOOT D9  RPOLY_HI L={rl} W={rw}
XR2 BOOT D12 RPOLY_HI L={rl} W={rw}

* --- Left stack : N9(HV) - N10 - N11 -> GND ---
XN9  D9  VDD  S9  NDMOS200V W={whv} L={lhv}
XN10 S9  ONP  S10 GND NMOS5V0 W={wn} L={llv}
XN11 S10 OFF  GND GND NMOS5V0 W={wn} L={llv}
* --- Right stack: N12(HV) - N13 - N14 -> GND ---
XN12 D12 VDD  S12 NDMOS200V W={whv} L={lhv}
XN13 S12 OFFP S13 GND NMOS5V0 W={wn} L={llv}
XN14 S13 ON   GND GND NMOS5V0 W={wn} L={llv}

* --- Latch-2 : PMOS drivers P3/P4, cross-coupled NMOS N3/N4 (5V) ---
XP3 Q2  Q  BOOT BOOT PMOS5V0 W={wp} L={llv}
XP4 Q2B QB BOOT BOOT PMOS5V0 W={wp} L={llv}
XN3 Q2  Q2B SW SW NMOS5V0 W={wn} L={llv}
XN4 Q2B Q2  SW SW NMOS5V0 W={wn} L={llv}

* --- Output buffers : non-inverting BUFFER subckt, BOOT/SW supplied ---
XBUF1 Q2  ON_HS  BOOT SW BUFFER WP={wp} WN={wn} L={llv}
XBUF2 Q2B OFF_HS BOOT SW BUFFER WP={wp} WN={wn} L={llv}

* --- Delay-cell block : ONS=S6 OFFS=S5 ONP->N10g OFFP->N13g ; powered VDD/GND ---
XDELAY S6 S5 ONP OFFP VDD GND DELAY_CELL WPI={wp} WNI={wn} LI={llv} RDL={rdl} RDW={rdw} CDL={cdl} CDW={cdw}

.ends LEVELSHIFTER
